US06057311
a. N-Butyloxycarbonyl-2-benzylaniline
A solution of 2-benzylaniline (6.04 g, 33 mmol), and di-tert-butyldicarbonate (7.92 g, 36 mmol), in THF (30 ml) was heated at reflux for 2 hours. The reaction mixture was concentrated in vacuo and the residue partitioned between ethyl acetate (100 ml) and 10% citric acid solution (100 ml). The organic layer was separated and dried (MgSO4). Filtration and evaporation of the solvent gave the product which was recrystallised from hexane (7.36 g, 79%).

reactant | 2-benzylaniline | 33 mmol, 6.04 g | C(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C13H13N
reactant | di-tert-butyldicarbonate | 36 mmol, 7.92 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | N-Butyloxycarbonyl-2-benzylaniline | C(CCC)OC(=O)NC1=C(C=CC=C1)CC1=CC=CC=C1 | C18H21NO2
